US08536336B2
2-fluoro-N-(thiazolo[4,5-c]pyridin-2-yl)-5-(trifluoromethyl)benzamide
A mixture of thiazolo[4,5-c]pyridin-2-amine (Milestone Pharm Tech USA Inc.) (1.35 g, 8.93 mmol), 2-fluoro-5-(trifluoromethyl)benzoic acid (2.23 g, 10.72 mmol) and triethylamine (2.71 g, 26.8 mmol) in THF (30 mL) was treated drop wise with 1-propanephosphonic acid cyclic anhydride (50% in ethyl acetate) (6.82 g, 10.72 mmol). The mixture was stirred at room temperature for 12 hrs. The reaction mixture was diluted with EtOAc, and washed with saturated NaHCO3. The organic layer was dried (Na2SO4), filtered, and concentrated. The residue was triturated with Et2O and hexane to afford the title compound (2.2 g, 72%) as a brown solid. 1H NMR (500 MHz, DMSO-d6) δ ppm 7.66 (t, J=9.46 Hz, 1H) 8.07 (m, 1H) 8.12 (d, J=4.88 Hz, 1H) 8.26 (dd, J=6.10, 2.14 Hz, 1H) 8.44 (d, J=5.49 Hz, 1H) 9.07 (s, 1H); MS (DCI/NH3) m/z 342 (M+1)+.

reactant | thiazolo[4,5-c]pyridin-2-amine | 8.93 mmol, 1.35 g | S1C(=NC=2C=NC=CC21)N | C6H5N3S
reactant | 2-fluoro-5-(trifluoromethyl)benzoic acid | 10.72 mmol, 2.23 g | FC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C8H4F4O2
reactant | triethylamine | 26.8 mmol, 2.71 g | C(C)N(CC)CC | C6H15N
reactant | 1-propanephosphonic acid cyclic anhydride | 10.72 mmol, 6.82 g | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-fluoro-N-(thiazolo[4,5-c]pyridin-2-yl)-5-(trifluoromethyl)benzamide | 2.2 g, 72% | FC1=C(C(=O)NC=2SC3=C(C=NC=C3)N2)C=C(C=C1)C(F)(F)F | C14H7F4N3OS
